* NGSPICE file created from mux.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_2 abstract view
.subckt sky130_fd_sc_hd__clkbuf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_12 abstract view
.subckt sky130_fd_sc_hd__decap_12 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_1 abstract view
.subckt sky130_fd_sc_hd__buf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__mux4_2 abstract view
.subckt sky130_fd_sc_hd__mux4_2 A0 A1 A2 A3 S0 S1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

.subckt mux address0 address1 in0 in1 in2 in3 out VPWR VGND
XFILLER_0_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xoutput7 _0_/X VGND VGND VPWR VPWR out sky130_fd_sc_hd__clkbuf_2
XFILLER_6_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_3_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_0_38 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_6_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_9_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_3_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_1_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_9_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_11_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_1_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_10_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_10_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_44 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
Xinput1 address0 VGND VGND VPWR VPWR _0_/S0 sky130_fd_sc_hd__buf_1
XPHY_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput2 address1 VGND VGND VPWR VPWR _0_/S1 sky130_fd_sc_hd__clkbuf_1
XPHY_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_1_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
Xinput3 in0 VGND VGND VPWR VPWR _0_/A0 sky130_fd_sc_hd__clkbuf_1
XFILLER_10_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_36 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_4_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_1_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
Xinput4 in1 VGND VGND VPWR VPWR _0_/A1 sky130_fd_sc_hd__clkbuf_1
XFILLER_7_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_1_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput5 in2 VGND VGND VPWR VPWR _0_/A2 sky130_fd_sc_hd__clkbuf_1
XFILLER_10_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_10_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xinput6 in3 VGND VGND VPWR VPWR _0_/A3 sky130_fd_sc_hd__clkbuf_1
XFILLER_4_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_6_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_2_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_2_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_8_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
X_0_ _0_/A0 _0_/A1 _0_/A2 _0_/A3 _0_/S0 _0_/S1 VGND VGND VPWR VPWR _0_/X sky130_fd_sc_hd__mux4_2
XFILLER_11_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_11_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_2_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_8_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_10_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_2_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_8_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_5_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_11_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_5_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_7_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_6_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_9_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
.ends

